US04927809
1. N(alpha)-Fmoc-D-Phenylalanyl-L-prolyl-L-argininamide
1.45 g of Fmoc-D-Phe-Pro (3 mmol) and 405 mg of HOBt were dissolved in 40 ml of DMF and, at 0oC, 630 mg of DCC were added, and then the mixture was stirred at 0oC for 30 minutes and at room temperature for 30 min. Then 880 mg of Arg-NH2 × 2 CH3COOH and 630 pl of NMM were added. After 12 hours, insolubles were filtered off, the DMF was evaporated off, and the oily residue was taken up chloroform. The organic phase was extracted by shaking three times with saturated sodium bicarbonate solution and three times with saturated sodium chloride solution, and was dried over sodium sulfate. After the chloroform had been evaporated off, a pure product was obtained.

reactant | Fmoc-D-Phe-Pro | 3 mmol, 1.45 g | N([C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C29H28N2O5
reactant | HOBt | 405 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 630 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Arg-NH2 | 880 mg | N[C@@H](CCCNC(N)=N)C(=O)N | C6H15N5O
reactant | NMM | CN1CCOCC1 | C5H11NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | CH3COOH | CC(=O)O | C2H4O2
product | N(alpha)-Fmoc-D-Phenylalanyl-L-prolyl-L-argininamide | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)N)CCC1 | C35H41N7O5
